US05665328
A stirred solution of 2-methylbenzoxazole (10 g, 75 mmol) and n-pentyl iodide (14.85 g, 75 mmol) was heated at reflux for 18 h. After cooling, the yellow-brown solid was slurried in ether, filtered off and washed with ether. The resulting solid was air dried to give 3-n-pentyl-2-methylbenzoxazolium iodide (20.3 g, 82%).

reactant | 2-methylbenzoxazole | 75 mmol, 10 g | CC=1OC2=C(N1)C=CC=C2 | C8H7NO
reactant | n-pentyl iodide | 75 mmol, 14.85 g | C(CCCC)I | C5H11I
solvent | ether | CCOCC | C4H10O
product | 3-n-pentyl-2-methylbenzoxazolium iodide | 20.3 g, 82% | [I-].C(CCCC)[N+]1=C(OC2=C1C=CC=C2)C | InChI=1S/C13H18NO.HI/c1-3-4-7-10-14-11(2)15-13-9-6-5-8-12(13)14;/h5-6,8-9H,3-4,7,10H2,1-2H3;1H/q+1;/p-1
